US09193678B2
4-bromomethyl-4′-nitrobenzophenone (3.20 g, 10.0 mmol, 1 eq) was dissolved in a 2:1 acetonitrile/water mixture (300 mL) and calcium carbonate (3.00 g, 30.0 mmol, 3 eq) was added. The turbid mixture was stirred under reflux for 60 hr. After this time the reaction mixture was allowed to cool and the solid calcium carbonate was filtered off. The solid was washed with ethyl acetate (10 mL) and the filtrate was concentrated under reduced pressure to give an off-white solid. The solid was dissolved in ethyl acetate and washed with concentrated hydrochloric acid. The organic solution was then neutralised with sodium bicarbonate, dried over magnesium sulfate and concentrated under reduced pressure to give 4-hydroxymethyl-4′-nitrobenzophenone (2.08 g, 81%) as a beige solid.

reactant | 4-bromomethyl-4′-nitrobenzophenone | 10.0 mmol, 3.20 g, 1 eq | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H10BrNO3
reactant | calcium carbonate | 30.0 mmol, 3.00 g, 3 eq | C([O-])([O-])=O.[Ca+2]
solvent | acetonitrile water | 300 mL | C(C)#N.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxymethyl-4′-nitrobenzophenone | 2.08 g, 81% | OCC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO4
